US20010004669A1
7-(4Chlorobenzamido)-1-(4-ethyl-1-piperazinyl)-naphthalene
A solution of 7-(4-chlorobenzamido)-1-(1-piperazinyl)-naphthalene (0.197 g, 5.39 mmol, the product of Example 12) in tetrahydrofuran (14 mL) was chilled to −78° C. and butyllithium (0.454 mL, 1.13 mmol, 2.5 M) was added in three portions. The yellow solution was stirred 5 minutes, then ethyl iodide (0.045 mL, 0.566 mmol) was added and the reaction was allowed to warm to room temperature. The mixture was treated with saturated aqueous ammonium chloride and the solvent was removed at reduced pressure. The residue was taken up in methylene chloride and extracted with saturated aqueous sodium bicarbonate and brine, dried, concentrated onto silica gel and flash chromatographed (1×2.5 inches). Elution proceeded as follows: 75% ethyl acetate/hexane (150 mL), nil; 90% ethyl acetate/hexane (200 mL) and ethyl acetate (200 mL), 0.135 g of a light yellow foam. This foam was triturated with pentane and 0.112 g (52%) of the title compound was collected as a white powder. mp 173-174.5° C. Analysis calculated for C23H24ClN3O: C, 70.13; H, 6.14; N, 10.67. Found: C, 70.21; H, 6.32; N, 10.79.

reactant | 7-(4-chlorobenzamido)-1-(1-piperazinyl)-naphthalene | ClC1=CC=C(C(=O)NC2=CC=C3C=CC=C(C3=C2)N2CCNCC2)C=C1 | C21H20ClN3O
reactant | butyllithium | 1.13 mmol, 2.5 M, 0.454 mL | C(CCC)[Li]
reactant | ethyl iodide | 0.566 mmol, 0.045 mL | C(C)I | C2H5I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 14 mL | O1CCCC1 | C4H8O
product | 7-(4Chlorobenzamido)-1-(4-ethyl-1-piperazinyl)-naphthalene | ClC1=CC=C(C(=O)NC2=CC=C3C=CC=C(C3=C2)N2CCN(CC2)CC)C=C1 | C23H24ClN3O
